US07067506B2
To a stirred solution of 2-amino-4-methyl-phenol (6.15 gm; 50 mmol) in dioxane (100 mL) was added carbonic acid di-tert-butyl ester (9.8 gm; 45 mmol) followed by sodium bicarbonate (12.6 gm; 150 mmol in 75 mL of H2O). After stirring for 8 hours, the reaction was diluted with 100 mL of ethyl acetate and washed with 1N aqueous hydrochloric acid (2×100 mL), saturated aqueous sodium bicarbonate (1×100 mL), and brine (100 mL), then dried (MgSO4), and filtered. The filtered solution was concentrated under reduced pressure to provide the desired (2-Hydroxy-5-methyl-phenyl)-carbamic acid tert-butyl ester as a brown solid (95% yield).

reactant | 2-amino-4-methyl-phenol | 50 mmol, 6.15 gm | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | carbonic acid di-tert-butyl ester | 45 mmol, 9.8 gm | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | sodium bicarbonate | 150 mmol, 75 mL, 12.6 gm | C([O-])(O)=O.[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (2-Hydroxy-5-methyl-phenyl)-carbamic acid tert-butyl ester | 95% yield | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C)O)=O | C12H17NO3
